US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (820 mg, 2622 μmol) was dissolved in 1,4-dioxane (5244 μL) and N-ethyl-N-isopropylpropan-2-amine (1370 μL, 7866 μmol). tert-Butyl 2-aminoacetate hydrochloride (659 mg, 3933 μmol) was added, and the reaction was stirred at 80° C. for 3 hours. The reaction mixture was then diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 50 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (200 mg) as a white solid after flash chromatography. MS m/e 420 (M+Na)+.

reactant | Ethyl 7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 2622 μmol, 820 mg | ClC1=C(C=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)OCC)O)F | C15H14ClFO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 7866 μmol, 1370 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 3933 μmol, 659 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 5244 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 200 mg | ClC1=C(C=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O)F | C19H21ClFNO5
